US09353107B2
N-(3-(3-(1-(3-aminobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl) methane sulfonamide
N-(3-(3-(1-(3-nitrobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)methane sulfonamide (Example-7) (80 mg, 0.163 mmol), was reduced by palladium on carbon (8 mg, 10% W/W) in THF/MeOH (2/2 mL) under positive pressure of hydrogen using a bladder. The catalyst filtered off and concentrated to get crude compound. This was then purified by preparative TLC using 10% ethyl acetate in hexanes as eluent yielded 12 mg (16% yield) of pure titled compound. 1H NMR (DMSO-d6, 400 MHz): δ11.85 (s, 1H), 9.83 (s, 1H), 8.47-8.46 (d, 1H), 8.33-8.32 (m, 2H), 7.92 (s, 1H), 7.775-7.770 (d, 1H), 7.53-7.44 (m, 3H), 7.24-7.22 (d, 1H), 6.96-6.94 (t, 1H), 6.46-6.42 (m, 2H), 5.20 (s, 2H), 5.10 (b, 2H), 3.05 (s, 3H). MS: m/z=459.3 (M+1), HPLC: 92.06% (method B).

reactant | N-(3-(3-(1-(3-nitrobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)methane sulfonamide | 0.163 mmol, 80 mg | [N+](=O)([O-])C=1C=C(CN2N=CC(=C2)C2=CNC3=NC=C(C=C32)C=3C=C(C=CC3)NS(=O)(=O)C)C=CC1 | C24H20N6O4S
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 8 mg | [Pd] | Pd
solvent | THF MeOH | 2 mL | C1CCOC1.CO
product | N-(3-(3-(1-(3-aminobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl) methane sulfonamide | 12 mg, 16% yield | NC=1C=C(CN2N=CC(=C2)C2=CNC3=NC=C(C=C32)C=3C=C(C=CC3)NS(=O)(=O)C)C=CC1 | C24H22N6O2S
